US07214802B2
To a solution of 2.32 g (12.5 mmol) of N-methyl-cyclopropanecarboxamidine tetrafluoroborate in 4 mL of MeCN were added 2.41 g (12.5 mmol) of 2-bromo-3-isopropoxy-propenal, 5.1 g (37 mmol) of K2CO3, and 0.17 g (0.62 mmol) of 18-crown-6. The mixture was stirred at rt overnight, and then was concentrated and redissolved in EtOAc. Water was added to dissolve the salts, the layers were separated, and the aqueous phase was extracted twice with EtOAc. The combined extracts were washed with a small amount of water and brine, dried over Na2SO4, filtered, concentrated, and chromatographed (35–85% EtOAc in hexanes) to provide 646 mg of 2-cyclopropyl-3-methyl-3H-imidazole-4-carbaldehyde as a pale yellow oil.

reactant | N-methyl-cyclopropanecarboxamidine tetrafluoroborate | 12.5 mmol, 2.32 g | F[B-](F)(F)F.CNC(=N)C1CC1
reactant | 2-bromo-3-isopropoxy-propenal | 12.5 mmol, 2.41 g | BrC(C=O)=COC(C)C | C6H9BrO2
reactant | K2CO3 | 37 mmol, 5.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 18-crown-6 | 0.62 mmol, 0.17 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | MeCN | 4 mL | CC#N | C2H3N
product | 2-cyclopropyl-3-methyl-3H-imidazole-4-carbaldehyde | 646 mg | C1(CC1)C1=NC=C(N1C)C=O | C8H10N2O
